US06156774
1-Fluorenylmethanol
To a cooled (0°), stirred, solution of 1-fluorenecarboxylic acid (2.10 g, 10.0 mmol) in dry tetrahydrofuran (20 ml) under argon was added lithium aluminium hydride (0.19 g, 5 mmol) added in portions over 10 minutes. After a further 1 hour, water was added cautiously until effervescence ceased. The reaction mixture was partitioned between ethyl acetate and water and filtered. The organic layer was washed with saturated sodium hydrogen carbonate solution followed by water and dried over MgSO4. Evaporation of solvent gave crude product. δH (CDCl3 containing CD3OD) 3.87 (2H, s), 4.81 (2H, s), 7.2-7.75 (7H, m) ppm

reactant | 1-fluorenecarboxylic acid | 10.0 mmol, 2.10 g | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | lithium aluminium hydride | 5 mmol, 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-Fluorenylmethanol | C1(=CC=CC=2C3=CC=CC=C3CC12)CO | C14H12O
